US08445501B2
1-(4-Amino-piperidin-1-yl)-ethanone
To a solution of 4-amino-piperidine-4-carboxylic acid tert-butyl ester (2.50 g; 12.5 mmol) and Huenigs base (3.2 mL) in dichloromethane (15 mL) is added acetyl chloride (1.1 mL; 15.0 mmol) under ice-cooling. The mixture is stirred overnight at ambient temperature. The solvent is evaporated and the obtained crude is partitioned between ethyl acetate and 1M aqueous HCl. Drying and evaporation of the solvent gave an orange oil which is dissolved in dichloromethane (38 mL). Trifluoroacetic acid (19 mL) is added and the mixture is stirred for 20 min at ambient temperature. The volatiles are completely evaporated at 35° C. bath temperature and the obtained residue is dissolved in a mixture of dichloromethane/methanol (95:5 v/v). Solid sodium carbonate is added and the suspension is stirred at ambient temperature overnight. Filtration and evaporation of the solvent gave 0.98 g of the title compound as slightly brown oil.

reactant | 4-amino-piperidine-4-carboxylic acid tert-butyl ester | 12.5 mmol, 2.50 g | C(C)(C)(C)OC(=O)C1(CCNCC1)N | C10H20N2O2
reactant | Huenigs base | 3.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 15.0 mmol, 1.1 mL | C(C)(=O)Cl | C2H3ClO
reactant | Trifluoroacetic acid | 19 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 38 mL | ClCCl | CH2Cl2
product | 1-(4-Amino-piperidin-1-yl)-ethanone | 0.98 g | NC1CCN(CC1)C(C)=O | C7H14N2O
